US08372842B2
BuLi (5.2 mL, 1.6M in hexanes) was added to a 0° C. solution of diisopropylamine (0.91 g, 9.0 mmol) in THF (40 mL). The reaction mixture was then stirred at 0° C. for 30 minutes, and then cooled to −78° C. A solution of methyl 3-(4-chlorophenyl)propanoate (1.5 g, 7.5 mmol) in THF (8 mL) was added slowly, and the reaction mixture was stirred at −78° C. for 40 minutes. A solution tert-butyl 2-bromoacetate (4.4 g, 22.7 mmol) in THF (5 mL) was then added. The reaction was then stirred for 30 minutes at −78° C. and then warmed to room temperature and stirred overnight. The reaction was then quenched with saturated NH4Cl and concentrated to remove THF. The reaction was then extracted with EtOAc, and the combined extracts were dried (Na2SO4), filtered, concentrated, and dried in vacuo to give 4-tert-butyl 1-methyl 2-(4-chlorobenzyl)succinate (1.91 g, 81%) as an oil.

reactant | BuLi | 1.6M, 5.2 mL | [Li]CCCC
reactant | diisopropylamine | 9.0 mmol, 0.91 g | C(C)(C)NC(C)C | C6H15N
reactant | methyl 3-(4-chlorophenyl)propanoate | 7.5 mmol, 1.5 g | ClC1=CC=C(C=C1)CCC(=O)OC | C10H11ClO2
reactant | tert-butyl 2-bromoacetate | 22.7 mmol, 4.4 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-tert-butyl 1-methyl 2-(4-chlorobenzyl)succinate | 1.91 g, 81% | ClC1=CC=C(CC(C(=O)OC)CC(=O)OC(C)(C)C)C=C1 | C16H21ClO4
